US07572820B2
5-Bromo-1-(cyclopropylmethyl)-2-methyl-4-(trifluoromethyl)-1H-indole
Synthesized as described in Example 4 using 5-bromo-2-methyl-4-(trifluoromethyl)-1H-indole and (bromomethyl)cyclopropane: 1H NMR (400 MHz, CDCl3) δ 7.38 (d, J=8.4 Hz, 1H), 7.26 (d, J=8.4 Hz, 1H), 6.49 (s, 1H), 3.99 (d, J=6.4 Hz, 2H), 2.46 (s, 3H), 1.14 (m, 1H), 0.56 (m, 2H), 0.32 (m, 2H); MS (ES) m/z 332 (M+1, isotope for Br) and 334 (M+1, isotope for Br).

reactant | 5-bromo-2-methyl-4-(trifluoromethyl)-1H-indole | BrC=1C(=C2C=C(NC2=CC1)C)C(F)(F)F | C10H7BrF3N
reactant | (bromomethyl)cyclopropane | BrCC1CC1 | C4H7Br
product | 5-Bromo-1-(cyclopropylmethyl)-2-methyl-4-(trifluoromethyl)-1H-indole | BrC=1C(=C2C=C(N(C2=CC1)CC1CC1)C)C(F)(F)F | C14H13BrF3N
